US04977175
A solution of 9.10 g of 3,4-dinitrotoluene in 100 ml of 30% methylamine/methanol was reacted at 150° C. for 6 hours in a sealed tube. The reaction solution was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography (200 g). Elution with ethyl acetate-hexane (1 : 3) gave 7.95 g (96%) of 3-(N-methylamino)-4-nitrotoluene.

reactant | 3,4-dinitrotoluene | 9.10 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])C | C7H6N2O4
reactant | methylamine methanol | 100 ml | CN.CO
product | 3-(N-methylamino)-4-nitrotoluene | 7.95 g, 96% | CNC=1C=C(C=CC1[N+](=O)[O-])C | C8H10N2O2
